US04739104
146 g (1 mol) of oxalic acid diethyl ester are added dropwise to 367.2 g of a 20% strength sodium ethylate solution in ethanol at 5° C. in the course of one hour, whilst stirring. 100 g of technical grade pinacolin are allowed to run in and the mixture is stirred for a further 15 minutes. It is then heated to 80° C. and heated under reflux for 3 hours. The solution is subsequently evaporated to dryness in a rotary evaporator. The residue is suspended in 200 ml of toluene and the suspension is stirred with 253 g of aqueous sulphuric acid (20.9% strength by weight) at 50° C. for 1 hour. The organic phase is separated off and distilled. 177 g of pivaloylpyruvic acid ethyl ester (88.2% of the theoretical yield) are obtained with a purity of 99.6% (by analysis by gas chromatography).

reactant | oxalic acid diethyl ester | 1 mol, 146 g | C(C)OC(C(=O)OCC)=O | C6H10O4
reactant | sodium ethylate solution | CC[O-].[Na+]
reactant | pinacolin | CC(=O)C(C)(C)C | C6H12O
solvent | ethanol | C(C)O | C2H6O
product | pivaloylpyruvic acid ethyl ester | 177 g | C(C)OC(C(=O)CC(C(C)(C)C)=O)=O | C10H16O4
